// File: pmos2_1.spi
// Created: Tue Apr 29 10:53:09 2025
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/pmos2_1.pex.spice"
subckt pmos2_1 (  )
// 
M0_noxref ( noxref_2 N_noxref_4_M0_noxref_g noxref_1 noxref_5 ) PMOS l=0.15 \
 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M1_noxref ( noxref_3 N_noxref_4_M1_noxref_g noxref_2 noxref_5 ) PMOS l=0.15 \
 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
c_4 ( noxref_1 0 ) capacitor c=0.0576505f //x=0.44 //y=-1.995
c_10 ( noxref_2 0 ) capacitor c=0.0233054f //x=0.87 //y=-1.995
c_14 ( noxref_3 0 ) capacitor c=0.0576505f //x=1.31 //y=-1.995
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/pmos2_1.pxi.spice"
// 
ends PMOS2_1
// 
// 
